US05521147
By the method of Example 1, Step E, 20.0 g (0.097 mole) of 2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran-3-one and 27.0 g (0.483 mole) of powdered iron were reacted in 85 mL of glacial acetic acid and 15 mL of water, yielding 11.79 g of 7-amino-2,3-dihydro-2,2-dimethylbenzofuran-3-one, m.p. 80°-84° C. The NMR and IR spectra of this product were consistent with the proposed structure.

reactant | 2,3-dihydro-2,2-dimethyl-7-nitrobenzofuran-3-one | 0.097 mole, 20.0 g | CC1(OC2=C(C1=O)C=CC=C2[N+](=O)[O-])C | C10H9NO4
solvent | acetic acid | 85 mL | C(C)(=O)O | C2H4O2
solvent | water | 15 mL | O | H2O
catalyst | iron | 0.483 mole, 27.0 g | [Fe] | Fe
product | 7-amino-2,3-dihydro-2,2-dimethylbenzofuran-3-one | 11.79 g | NC1=CC=CC=2C(C(OC21)(C)C)=O | C10H11NO2
